US06583282B1
1-[3-tert-Butyl-1-(2-methylpyridin-5-yl)-1H-pyrazol-5-yl]-3-[4-(pyridin-4-yl-methloxy)naphthalen-1-yl]-urea
A solution of 5-(2,2,2-trichloroethoxycarbonyl)amino-3-t-butyl-1-(2-methylpyridin-5-yl)pyrazole (26 mmol), 1-amino-4-(pyridin-4-ylmethoxy)naphthalene (26 mmol), diisopropylethylamine (25 mmol) and DMSO (75 mL) is heated to 55-90° C. and held for 2-8 h. To this solution, ethyl acetate (100 mL) is added. The organic layer is washed with brine (4×50 mL), and dried over MgSO4. The solvent is removed under reduced pressure, and residue is crystallized from a suitable solvent such as acetonitrile (50 mL) at 0° C. The product is collected by filtration and recrystallized from a suitable solvent such as isopropanol and dried in vacuum to constant weight.

reactant | 5-(2,2,2-trichloroethoxycarbonyl)amino-3-t-butyl-1-(2-methylpyridin-5-yl)pyrazole | 26 mmol | ClC(COC(=O)NC1=CC(=NN1C=1C=CC(=NC1)C)C(C)(C)C)(Cl)Cl | C16H19Cl3N4O2
reactant | 1-amino-4-(pyridin-4-ylmethoxy)naphthalene | 26 mmol | NC1=CC=C(C2=CC=CC=C12)OCC1=CC=NC=C1 | C16H14N2O
reactant | diisopropylethylamine | 25 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-[3-tert-Butyl-1-(2-methylpyridin-5-yl)-1H-pyrazol-5-yl]-3-[4-(pyridin-4-yl-methloxy)naphthalen-1-yl]-urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)OCC1=CC=NC=C1)C=1C=CC(=NC1)C | C30H30N6O2
